US07576217B2
[6-Bromo-4-(4-methanesulfonyl-phenyl)-2-methyl-quinolin-3-yl]-cyclopropyl-methanone
The title compound was prepared from (2-Amino-5-bromo-phenyl)-(4-methanesulfonyl-phenyl)-methanone [example A15] and 1-cyclopropyl-1,3-butanedione according to the procedure of example 1, except that the solvent was isopropanol, the reaction time was of 16 h and heptane/ethyl acetate (1:2) was used. Yield: 47%; MS: m/z=443 (M+H).

reactant | (2-Amino-5-bromo-phenyl)-(4-methanesulfonyl-phenyl)-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=C(C=C1)S(=O)(=O)C | C14H12BrNO3S
reactant | 1-cyclopropyl-1,3-butanedione | C1(CC1)C(CC(C)=O)=O | C7H10O2
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | [6-Bromo-4-(4-methanesulfonyl-phenyl)-2-methyl-quinolin-3-yl]-cyclopropyl-methanone | Yield: 47% | BrC=1C=C2C(=C(C(=NC2=CC1)C)C(=O)C1CC1)C1=CC=C(C=C1)S(=O)(=O)C | C21H18BrNO3S
